US09428456B2
(5.001c): 6-Trifluoromethyl-pyridine-2-carboxylic acid [6-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-pyrimidin-4-yl]-amide
To a solution of ((4-(tert-butylcarbamoyl)piperidin-1-yl)methyl)trifluoroborate (45 mg, 0.169 mmol) in THF/water 4:1 (3 mL) are added 6-trifluoromethyl-pyridine-2-carboxylic acid (6-chloro-pyrimidin-4-yl)-amide (51.2 mg, 0.169 mmol), palladium (II) acetate, (0.949 mg, 0.00423 mmol,), X-Phos, (2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl) (4.84 mg, 0.0101 mmol) and Cs2CO3, (165 mg, 0.507 mmol). The mixture is purged with argon and is stirred overnight in a sealed tube at 80° C. The mixture is let to cool down. Water (3 mL) and AcOEt (5 mL) are added and the aqueous phase is extracted with AcOEt (10 mL). The organic phase is dried over MgSO4, filtered and evaporated. The residue is purified by prep HPLC E delivering the title compound (27 mg, 30%) as a white powder, LC-MS A: tR=0.74 min; [M+H]+=465.4.

reactant | ((4-(tert-butylcarbamoyl)piperidin-1-yl)methyl)trifluoroborate | 0.169 mmol, 45 mg | C(C)(C)(C)NC(=O)C1CCN(CC1)C[B-](F)(F)F
reactant | 6-trifluoromethyl-pyridine-2-carboxylic acid (6-chloro-pyrimidin-4-yl)-amide | 0.169 mmol, 51.2 mg | ClC1=CC(=NC=N1)NC(=O)C1=NC(=CC=C1)C(F)(F)F | C11H6ClF3N4O
reactant | X-Phos | CC(C)C1=CC(=C(C(=C1)C(C)C)C2=C(C=CC=C2)P(C3CCCCC3)C4CCCCC4)C(C)C | C33H49P
reactant | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | Cs2CO3 | 0.507 mmol, 165 mg | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | THF water | 3 mL | C1CCOC1.O
catalyst | palladium (II) acetate | 0.00423 mmol, 0.949 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 6-Trifluoromethyl-pyridine-2-carboxylic acid [6-(4-tert-butylcarbamoyl-piperidin-1-ylmethyl)-pyrimidin-4-yl]-amide | C(C)(C)(C)NC(=O)C1CCN(CC1)CC1=CC(=NC=N1)NC(=O)C1=NC(=CC=C1)C(F)(F)F | C22H27F3N6O2
